US06632810B2
Synthesis of N,N′-bis[3-(1-methyl-4,5,6-trimethoxy-indol-2-yl)propyl]piperazine:
2-(3-Methanesulfonyloxypropyl)-N-methyl-4,5,6-trimethoxyindole (160 mg) and piperazine (17 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 2-(3-Methanesulfonyloxypropyl)-N-methyl-4,5,6-trimethoxyindole | 160 mg | CS(=O)(=O)OCCCC=1N(C2=CC(=C(C(=C2C1)OC)OC)OC)C | C16H23NO6S
reactant | piperazine | 17 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[3-(1-methyl-4,5,6-trimethoxy-indol-2-yl)propyl]piperazine | CN1C(=CC2=C(C(=C(C=C12)OC)OC)OC)CCCN1CCN(CC1)CCCC=1N(C2=CC(=C(C(=C2C1)OC)OC)OC)C | C34H48N4O6
